US06340682B1
Preparation of 1,4-bis[5-phenylpenta-(2E, 4E)-dienoyl]hexahydro-1,4-diazepine:
After 2.49 g (14.3 mmol) of 5-phenylpenta-(2E,4E)-dienoic acid were added to a solution of 653 mg (6.51 mmol) of homopiperazine in anhydrous dimethylformamide (30 ml), a reaction vessel was transferred to an ice bath, and 2.7 ml (19 mmol) of triethylamine and 3.0 ml (14 mmol) of diphenylphosphorylazide were added and the resultant mixture was stirred for 1 hour. Added to the reaction mixture was 40 ml of a 5% aqueous solution of sodium hydrogencarbonate to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil (8.4 g) was purified by column chromatography on alumina and column chromatography on silica gel, and then recrystallized from ethyl acetate-hexane, thereby obtaining 2.18 g (yield: 81%) of the title compound as a colorless crystalline powder.

reactant | 5-phenylpenta-(2E,4E)-dienoic acid | 14.3 mmol, 2.49 g | C1(=CC=CC=C1)/C=C/C=C/C(=O)O | C11H10O2
reactant | homopiperazine | 6.51 mmol, 653 mg | N1CCNCCC1 | C5H12N2
reactant | triethylamine | 19 mmol, 2.7 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 14 mmol, 3.0 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,4-bis[5-phenylpenta-(2E, 4E)-dienoyl]hexahydro-1,4-diazepine | 2.18 g, yield: 81% | C1(=CC=CC=C1)/C=C/C=C/C(=O)N1CCN(CCC1)C(\C=C\C=C\C1=CC=CC=C1)=O | C27H28N2O2
